US08497368B2
To a solution of 6-bromo-N2-(quinolin-6-ylmethyl)pyrazine-2,3-diamine (6.55 g, 19.84 mmol) in acetic acid (15 mL), was added a the solution of sodium nitrite (2.74 g, 39.7 mmol) in water (3 mL). After stirring at rt for 3 h, the solution was concentrated in vacuo. The residue was taken with NaHCO3(aq), extracted with DCM. The organic layer was washed with NH4Cl(aq), dried over Na2SO4, filtered, concentrated in vacuo and purified by silica gel chromatography with EA:Hexanes to provide 6-((6-bromo-1H-[1,2,3]triazolo[4,5-b]pyrazin-1-yl)methyl)quinoline (3.35 g, 47%). 1H-NMR (400 MHz, DMSO-d6) δ ppm 9.05 (s, 1H), 8.89 (d, 1H), 8.34 (d, 1H), 8.02 (d, 1H), 7.9 3 (s, 1H), 7.76 (dd, 1H), 7.53 (dd, 1H), 6.19 (s, 2H). LCMS (method B): [MH]+=343, tR=2.11 min.

reactant | 6-bromo-N2-(quinolin-6-ylmethyl)pyrazine-2,3-diamine | 19.84 mmol, 6.55 g | BrC1=CN=C(C(=N1)NCC=1C=C2C=CC=NC2=CC1)N | C14H12BrN5
reactant | sodium nitrite | 39.7 mmol, 2.74 g | N(=O)[O-].[Na+]
solvent | acetic acid | 15 mL | C(C)(=O)O | C2H4O2
solvent | water | 3 mL | O | H2O
product | 6-((6-bromo-1H-[1,2,3]triazolo[4,5-b]pyrazin-1-yl)methyl)quinoline | 3.35 g, 47% | BrC1=CN=C2C(=N1)N(N=N2)CC=2C=C1C=CC=NC1=CC2 | C14H9BrN6
